US04797401
(C) 1-(4-Methanesulphonamidophenyl)piperazine hydrochloride
1-Acetyl-4-(4-methanesulphonamidophenyl)piperazine (9.6 g) and 5N aqueous hydrochloric acid (100 ml) were heated at 100° for 1 hour, the solvent was evaporated, and the residue dried by azeotroping with toluene. The residue was crystallised from ethanol, yield of the title compound 8.26 g, m.p. 230° (dec.).

reactant | 1-Acetyl-4-(4-methanesulphonamidophenyl)piperazine | 9.6 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NS(=O)(=O)C | C13H19N3O3S
reactant | hydrochloric acid | 5N, 100 ml | Cl | ClH
product | 1-(4-Methanesulphonamidophenyl)piperazine hydrochloride | Cl.CS(=O)(=O)NC1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C11H17N3O2S.ClH/c1-17(15,16)13-10-2-4-11(5-3-10)14-8-6-12-7-9-14;/h2-5,12-13H,6-9H2,1H3;1H
